US04273773
Phosphorus pentoxide (500 g, 3.5 mol) is added portionwise to a mechanically stirred solution of 3-(3,4-dimethoxyphenyl)propionic acid (100 g, 0.67 mol) in benzene (2500 ml) and the mixture is refluxed for 8 hr. The reaction is slowly poured into ice-water, and the benzene layer is separated and washed with 10% sodium hydroxide and water, dried and evaporated to give 5,6-dimethoxyindan-1-one (60 g), mp 100° C., described by W. H. Perkin and R. Robinson, J. Chem. Soc., 1073 (1907).

reactant | Phosphorus pentoxide | 3.5 mol, 500 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 3-(3,4-dimethoxyphenyl)propionic acid | 0.67 mol, 100 g | COC=1C=C(C=CC1OC)CCC(=O)O | C11H14O4
solvent | benzene | 2500 ml | C1=CC=CC=C1 | C6H6
product | 5,6-dimethoxyindan-1-one | 60 g | COC=1C=C2CCC(C2=CC1OC)=O | C11H12O3
